US09253997B2
To 171 mg (1 mmol) of L-cysteine methyl ester hydrochloride, 2 ml of tetrahydrofuran and 0.3 ml of triethylamine were added, 218 mg (1 mmol) of di-tert-butyl dicarbonate dissolved in 2 ml of tetrahydrofuran was added and the resultant was stirred at room temperature for 2 hours. Ethyl acetate and 10% aqueous citric acid solution were used for aftertreatment according to a routine method to obtain a crude product of Boc-Cys-OMe. To the obtained crude product, 191 mg of 3-aminobenzene sulfonic acid and 100 mg (0.33 mmol) of triphosgene were added and the resultant was suspended in 3 ml of methylene chloride. To this, 3 mmol of N,N-diisopropylethylamine was added and stirred for 2 hours. After distilling the solvent away, the resultant was diluted with water and acetonitrile, and purification step A was employed to obtain 72 mg of a crude purified substance of the title compound in protected form. 72 mg of the resulting crude purified substance was dissolved in 1 ml of tetrahydrofuran, 0.5 ml of methanol and 0.5 ml of water, to which 17 mg of lithium hydroxide was added and the resultant was stirred at room temperature for 2 hours. After distilling the solvent away, 2 ml of trifluoroacetic acid was added and stirred for 2 hours. The resultant residue was purified by purification step A to obtain the title compound.

reactant | L-cysteine methyl ester hydrochloride | 1 mmol, 171 mg | Cl.COC([C@@H](N)CS)=O
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1 mmol, 218 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Boc-Cys-OMe | N([C@@H](CS)C(=O)OC)C(=O)OC(C)(C)C | C9H17NO4S
